US05132314
(a) 3,5-Dichloro-2-[di-(4-chlorophenylsulfonyl)-amino]-benzoic acid ethyl ester
138.0 g of 4-chlorobenzenesulfonic acid chloride are added in portions, at room temperature, to a solution of 50.0 g of 3,5-dichloroanthranilic acid ethyl ester in 210 ml of dry pyridine. The reaction mixture is heated to 80°-90° C. and stirred for 28 hours at that temperature to complete the reaction. After cooling, the reaction mixture is poured onto ice/water and acidified with 2N hydrochloric acid. The sticky, oily precipitate is dissolved in diethyl ether, and the aqueous phase is removed. The organic phase is washed with water and saturated sodium chloride solution. After drying over magnesium sulfate, the ether is evaporated off and the crystals remaining are stirred in a mixture of diethyl ether/hexane 4:1. The crystals, which are filtered off, weigh 87.3 g after drying and correspond to the title compound (m.p. 148°-150° C.).

reactant | 4-chlorobenzenesulfonic acid chloride | 138.0 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 3,5-dichloroanthranilic acid ethyl ester | 50.0 g | C(C)OC(C=1C(N)=C(C=C(C1)Cl)Cl)=O | C9H9Cl2NO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 210 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,5-Dichloro-2-[di-(4-chlorophenylsulfonyl)-amino]-benzoic acid ethyl ester | C(C)OC(C1=C(C(=CC(=C1)Cl)Cl)N(S(=O)(=O)C1=CC=C(C=C1)Cl)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C21H15Cl4NO6S2
